US08471005B2
Into a 1 L beaker, 1-(3-benzoyl-thioureido)-1H-indole-2-carboxylic acid methyl ester (24.27 g, 0.07 mol) and a 2 M solution of sodium hydroxide in water (140 mL, 0.28 mol) were added. The mixture was heated at 85° C. for 75 minutes. The reaction was cooled to room temperature. Acetic acid (16.7 mL, 0.29 mol) was added at 0° C. and the mixture was stirred for 30 minutes. The solid was filtered and dried on filter overnight to afford a white solid, which was further dried under vacuum overnight. NMR indicated about 1:1 molar ratio of product to benzoic acid. Trituration and filtration from hot benzene removed the benzoic acid and afforded 2-thioxo-2,3-dihydro-1H-[1,2,4]triazino[1,6-a]indol-4-one (14.50 g, 96%), which was used in the next step without further purification. 1H-NMR (DMSO-d6) δ 10.29 (br s, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.66 (d, J=8.1 Hz, 1H), 7.3 (br s, 1H), 7.27 (m, 1H), 7.12 (m, 1H), 6.88 (s, 1H).

reactant | 1-(3-benzoyl-thioureido)-1H-indole-2-carboxylic acid methyl ester | 0.07 mol, 24.27 g | COC(=O)C=1N(C2=CC=CC=C2C1)NC(=S)NC(C1=CC=CC=C1)=O | C18H15N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.28 mol, 140 mL | O | H2O
reactant | Acetic acid | 0.29 mol, 16.7 mL | C(C)(=O)O | C2H4O2
product | 2-thioxo-2,3-dihydro-1H-[1,2,4]triazino[1,6-a]indol-4-one | 14.50 g, 96% | S=C1NN2C(=CC3=CC=CC=C23)C(N1)=O | C10H7N3OS
